US04490369
(b) 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-2,4-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 5(b) by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-2,4-dione-3-yl)-3-chloro-propane with N-methyl-N[2-(3,4-dimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-2,4-dione-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(C(C2)=O)CCCCl)=O)C=C1OC | C15H18ClNO4
reactant | N-methyl-N[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepine-2,4-dione-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(C(C2)=O)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1OC | InChI=1S/C26H34N2O6.ClH/c1-27(12-9-18-7-8-21(31-2)22(13-18)32-3)10-6-11-28-25(29)16-19-14-23(33-4)24(34-5)15-20(19)17-26(28)30;/h7-8,13-15H,6,9-12,16-17H2,1-5H3;1H
